US08022223B2
N-(5-(3-(3-(dimethylamino)propoxy)phenylthio)-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine
Prepared according to the method of Example 60 using 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)phenol and 3-chloro-N,N-dimethylpropan-1-amine hydrochloride. 1H NMR (d6-DMSO)S 9.55 (s, 1H), 8.28 (dd, 1H), 7.49 (dd, 1H), 7.29 (m, 2H), 7.11 (t, 1H), 7.00 (t, 1H), 6.85 (m, 2H), 6.65 (m, 1H), 6.58 (m, 1H), 6.54 (m, 1H), 6.38 (m, 1H), 3.70 (m, 2H), 2.21 (s, 3H), 2.04 (s, 6H) 1.96 (t, 2H), 1.44 (m, 2H); Mass spectrum (esi) m/z=493.1 (M+H).

reactant | 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)phenol | CC=1N=C(SC1)NC1=C(C=C(C=N1)SC=1C=C(C=CC1)O)OC1=CC=CC=C1 | C21H17N3O2S2
reactant | 3-chloro-N,N-dimethylpropan-1-amine hydrochloride | Cl.ClCCCN(C)C
product | N-(5-(3-(3-(dimethylamino)propoxy)phenylthio)-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine | CN(CCCOC=1C=C(C=CC1)SC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1)C | C26H28N4O2S2
